US05807859
To a suspension of 1.4 g of 10-acetamido-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one in 35 ml of anhydrous dimethyl sulphoxide, maintained at 20° C. under a nitrogen atmosphere, is added 0.36 g of 80% sodium hydride and the mixture is stirred for 20 minutes. A solution of 0.7 g of benzyl chloride in 1 ml of anhydrous dimethyl sulphoxide is then added dropwise over 5 minutes at the same temperature and, after stirring for 3 hours, the reaction mixture is poured into a mixture of 200 ml of distilled water, 80 g of ice and 6 ml of acetic acid. The insoluble material formed is removed by centrifugation and the supernatant solution is stored for 15 hours at a temperature in the region of 20° C. The insoluble product formed is isolated by filtration, washed twice with 10 ml in total of distilled water and with 5 ml of acetone, and then dried under reduced pressure (1 mmHg; 0.13 kPa) at 80° C. 0.52 g of 10-acetamido-10-benzyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one is thus obtained, melting at 325° C. (decomposition) (Analysis, % calculated C: 71.34, H: 4.90, N: 15.13, O: 8.64, % found C: 71.2, H: 4.5, N: 15.0).

reactant | 10-acetamido-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 1.4 g | C(C)(=O)NC1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C15H12N4O2
reactant | sodium hydride | 0.36 g | [H-].[Na+]
reactant | benzyl chloride | 0.7 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | water | 200 ml | O | H2O
solvent | dimethyl sulphoxide | 35 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulphoxide | 1 ml | CS(=O)C | C2H6OS
solvent | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
product | 10-acetamido-10-benzyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 0.52 g | C(C)(=O)NC1(C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)CC3=CC=CC=C3 | C22H18N4O2
